*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXJ160ARA151MF61G
*//   Date        : 2023/11/09
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXJ160ARA151MF61G_20deg-C 1 2

C1 4 2 7.65e-05
C2 5 2 4.94e-05
C3 6 2 1.66e-05
R1 3 4 2.26e-02
R2 4 5 7.90e-02
R3 5 6 2.12e+00
L1 1 3 2.60e-09

.ENDS
*$
